US03965099
Chloromethyl methyl carbonate (0.02 mol) is reacted with sodium 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid (0.01 mol) in DMF for 20 hours. On work up as described in Example 1, methoxycarbonyloxymethyl 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate is obtained.

reactant | Chloromethyl methyl carbonate | 0.02 mol | C(OCCl)(OC)=O | C3H5ClO3
reactant | sodium 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | 0.01 mol | FC(F)(F)SCC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)O)C1=O.[Na]
solvent | DMF | CN(C)C=O | C3H7NO
product | methoxycarbonyloxymethyl 7-trifluoromethylmercaptoacetamido-3-(1-methyltetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate | FC(F)(F)SCC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OCOC(=O)OC)C1=O | C16H17F3N6O7S3
